US08957093B2
Step 3: 1-(4-Bromobenzyl)-1H-indole-5-carboxylic acid
To a solution of methyl 1-(4-bromobenzyl)-1H-indole-5-carboxylate (1.09 g, 3.2 mmol, 1 equiv) in methanol (30 mL) was added a 5 N NaOH solution (6.3 mL, 32 mmol, 10 equiv). The reaction mixture was stirred 2 h at 40° C. The mixture was then acidified and extracted with DCM. After concentration in vacuo, the title compound was precipitated in Et2O to afford a white powder (1.03 g, 3.1 mmol, 99%). ESI-MS (m/z): 330/332 [M+H]+.

reactant | methyl 1-(4-bromobenzyl)-1H-indole-5-carboxylate | 3.2 mmol, 1.09 g, 1 equiv | BrC1=CC=C(CN2C=CC3=CC(=CC=C23)C(=O)OC)C=C1 | C17H14BrNO2
reactant | NaOH | 32 mmol, 5 N, 6.3 mL, 10 equiv | [OH-].[Na+]
solvent | methanol | 30 mL | CO | CH4O
product | 1-(4-Bromobenzyl)-1H-indole-5-carboxylic acid | 3.1 mmol, 1.03 g, 99% | BrC1=CC=C(CN2C=CC3=CC(=CC=C23)C(=O)O)C=C1 | C16H12BrNO2
